US09102614B2
Preparation of (S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-3-((dimethyl-amino)methyl)naphthalen-2-yl)acetic acid (24):
To a solution of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-((dimethylamino)methyl)naphthalen-2-yl)acetate in THF (0.5 mL) and MeOH (0.5 mL), was added NaOH solution (2N, 100 μL). The reaction mixture was stirred at room temperature for 1 day. The reaction mixture was neutralized by HOAc and concentrated down. The residue was dissolved in MeOH and purified by reverse phase HPLC (Gemini, 5 to 100% ACN/H2O+0.1% TFA) to provide the desired product (3.7 mg). 1H-NMR: 400 MHz, (CD3OD) δ: 8.12 (s, 1H), 8.00 (d, J=4.2 Hz, 1H), 7.65-7.52 (m, 5H), 7.32-7.30 (m, 2H), 5.36 (s, 1H), 4.93 (d, J=6.8 Hz, 1H), 4.47 (d, J=7 Hz, 1H), 3.12 (s, 3H), 2.89 (s, 3H), 1.12 (s, 9H). LCMS-ESI+ (m/z): [M+H]+ calcd for C25H29C1NO3: 426.2. Found: 426.1, 428.1.

reactant | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-((dimethylamino)methyl)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1CN(C)C)C1=CC=C(C=C1)Cl | C27H32ClNO3
reactant | NaOH | 2N, 100 μL | [OH-].[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
product | (S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-3-((dimethyl-amino)methyl)naphthalen-2-yl)acetic acid | 3.7 mg | C(C)(C)(C)O[C@H](C(=O)O)C1=C(C2=CC=CC=C2C=C1CN(C)C)C1=CC=C(C=C1)Cl | C25H28ClNO3
